US08895745B2
3-Methoxy-5-nitro-phenyl boronic acid pinacol ester
A mixture of 1-bromo-3-methoxy-5-nitro-benzene (387 mg, 1.7 mmol), bis(pinacolato)diboron (850 mg, 3.3 mmol) and KOAc (490 mg, 5.0 mmol) in dry DMSO (3.5 ml) was deoxygenated by evacuation/refill with N2 (×3). PdCl2ddpf (61 mg, 0.08 mmol) was added and the mixture was deoxygenated again (×3) then stirred and heated at 100° C. under N2 for 16 hours. After cooling to RT the mixture was partitioned between EtOAc/H2O then filtered through Celite®. The layers were separated and the aqueous layer was extracted with EtOAc (×1). The combined organic extracts were washed with brine (×1), then dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography on silica (5→40% EtOAc/petrol) to give the title compound (185 mg, solid—after trituration with petrol). 1H NMR (400 MHz, CDCl3): 8.23 (1H, d), 7.79 (1H, t), 7.62 (1H, d), 3.90 (3H, s), 1.36 (12H, s).

reactant | 1-bromo-3-methoxy-5-nitro-benzene | 1.7 mmol, 387 mg | BrC1=CC(=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | bis(pinacolato)diboron | 3.3 mmol, 850 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 5.0 mmol, 490 mg | CC(=O)[O-].[K+]
solvent | DMSO | 3.5 ml | CS(=O)C | C2H6OS
product | 3-Methoxy-5-nitro-phenyl boronic acid pinacol ester | 185 mg | COC=1C=C(C=C(C1)[N+](=O)[O-])B1OC(C)(C)C(C)(C)O1 | C13H18BNO5
